US07906540B2
step 1—n-BuLi (2.6 mL of a 1.6 M solution, 1.1 equiv) was added slowly to a solution of the 1,3-dibromo-5-methoxy-benzene (1.0 g, 3.8 mmol, CAS Reg. No. 74137-36-3) in Et2O (20 mL) cooled to −78° C. under an N2 atmosphere. The solution was stirred for 45 min, and DMF was added via syringe. The solution was warmed slowly to RT, added to saturated ammonium chloride, and extracted with ether. The organic phase was washed with brine and dried (MgSO4), filtered and evaporated to afford 0.80 g (98%) of 1-bromo-3-formyl-benzaldehyde.

reactant | 1,3-dibromo-5-methoxy-benzene | BrC1=CC(=CC(=C1)OC)Br | C7H6Br2O
reactant | DMF | CN(C)C=O | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Et2O | 20 mL | CCOCC | C4H10O
product | 1-bromo-3-formyl-benzaldehyde | 0.80 g, 98% | BrC1(C=O)CC(=CC=C1)C=O | C8H7BrO2
